US06664271B1
The reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with ethyl nipecotate (202.9 mg; 1.29 mmol) and commercially available 2-thiophenecarbonyl chloride (138 μl; 1.29 mmol). The crude product was distilled at 225° C./0.1 torr, giving ethyl (2-thiophenecarbonyl)-3-piperidinecarboxylate (249.8 mg) as a yellow oil. MS m/z (positive ion) 290 (M+Na+; 40), 268 (MH+; 100).

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | ethyl nipecotate | 1.29 mmol, 202.9 mg | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 2-thiophenecarbonyl chloride | 1.29 mmol, 138 μl | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
product | ethyl (2-thiophenecarbonyl)-3-piperidinecarboxylate | 249.8 mg | S1C(=CC=C1)C(=O)N1CC(CCC1)C(=O)OCC | C13H17NO3S
